US07279486B2
Step 1. tert-Butyl 2-(diethoxyphosphoryl)-3-(1,3-thiazol-4-yl)propanoate
To a solution of tert-butyl diethylphosphonoacetate (15.6 g, 62 mmol) in dimethylformamide (50 mL) was added sodiumhydride (60% dispersion in mineral oil, 2.48 g, 62 mmol) at 0° C. under nitrogen atmosphere. After 45 min, to the mixture was added a solution of 4-(bromomethyl)-1,3-thiazole in toluene (27 g). The mixture was stirred at room temperature overnight. The mixture was quenched with water and extracted with toluene/ethyl acetate (1/3). The combined organic layer was washed with brine, dried over sodium sulfate, and evaporated. The residue was purified by column chromatography on silica gel eluting with hexane/ethyl acetate (1/2 to 100% ethyl acetate) to afford 7.17 g (35%) of the title compound as a colorless oil:

reactant | tert-butyl diethylphosphonoacetate | 62 mmol, 15.6 g | C(C)OP(=O)(OCC)CC(=O)OC(C)(C)C | C10H21O5P
reactant | sodiumhydride | 62 mmol, 2.48 g | [H-].[Na+]
reactant | 4-(bromomethyl)-1,3-thiazole | BrCC=1N=CSC1 | C4H4BrNS
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | toluene | 27 g | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 2-(diethoxyphosphoryl)-3-(1,3-thiazol-4-yl)propanoate | 7.17 g, 35% | C(C)OP(=O)(OCC)C(C(=O)OC(C)(C)C)CC=1N=CSC1 | C14H24NO5PS
